US09056859B2
Step E: 3-oxo-3,6,7,8-tetrahydro-1H-indeno[4,5-c]furan-6-carbaldehyde
To a solution of 6-(hydroxymethyl)-1,6,7,8-tetrahydro-3H-indeno[4,5-c]furan-3-one (55 mg, 0.27 mmol) in DCM (5 mL) was added Dess-Martin Periodate (171 mg, 0.400 mmol). The reaction was allowed to stir at RT for 3 hours. LC analysis showed formation of the desired product, and there was little SM left. The solution was diluted with DCM (30 mL), and to that was added Na2S2O3 (10% aq solution, 15 mL) to consume the excess Dess-Martin reagent. The mixture was stirred until the two layers separated. The bottom DCM layer was collected, washed with aq Na2CO3, dried over sodium sulfate, and concentrated to give 3-oxo-3,6,7,8-tetrahydro-1H-indeno[4,5-c]furan-6-carbaldehyde. LC-MS (IE, m/z): 203 [M+1]+.

reactant | 6-(hydroxymethyl)-1,6,7,8-tetrahydro-3H-indeno[4,5-c]furan-3-one | 0.27 mmol, 55 mg | OCC1CCC2=C1C=CC1=C2COC1=O | C12H12O3
reactant | Dess-Martin Periodate | 0.400 mmol, 171 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C.I(=O)(=O)(=O)[O-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-oxo-3,6,7,8-tetrahydro-1H-indeno[4,5-c]furan-6-carbaldehyde | O=C1C2=C(CO1)C=1CCC(C1C=C2)C=O | C12H10O3
